Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine
 
Attending: ___.
 
Chief Complaint:
presyncope, chest heaviness.
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
The patient is a ___ year old female with a past medical history 
significant for hypertension and multinodular goiter who 
presented for evaluation of near syncope. After eating a large 
dinner with friends, the patient went to the ___ 
___ for an event (So You Think You Can Dance Show), and 
after running up main auditorium stairs and waiting in line to 
get to the bathroom felt palpitations, like her heart was in her 
throat. This persisted for several seconds, she then felt 
clammy, sweaty, lightheaded, and leaned against the wall. She 
asked a bystander for help which prompted EMS. She also reported 
confusion for approx 30 seconds while very lightheaded; had 
trouble giving people directions on how to find her friends who 
were sitting in auditorium. 

During the event she reports some chest heaviness without frank 
pain or shortness of breath that lasted less than 1 minute. Also 
had some mild nausea but denies vomiting, post-ictal confusion, 
loss of bowel or bladder function. She had presyncopal symptoms 
lasting > 5 seconds but states no LOC. She is worried because 
her older sister had a non-fatal but "massive" MI at 54. Just 
after this episode, the patient took 2 ASA. She was evaluated by 
EMS in field and brought to ___ for further evaluation.  

Of note, the patient was seen one month ago for intermittent 
left hand tingling due to concern about family hx of MI. Work-up 
per report was negative, except found iron deficiency anemia, 
and done at ___, now on po iron supplementation with 
improvement.  

In ED, Temp 98.2 HR 96 BP 109/51 RR 16 Pox 100% RA. EKG with ST 
depressions and Twave inversions in AVL, V1, V2. Cards viewed 
EKG and felt no STEMI, recomended admission for ___. Temp 97.9 
HR 90 BP 120/66 RR 18 O2sat 99%.  

On floor on the morning of admission, all symptoms had resolved, 
pt chest pain free, denies N/V, denies arm or jaw pain.  Feels 
entirely well. 

ROS: Denies fevers, weight change, shortness of breath, DOE, 
PND, orthopnea, abdominal pain, vomiting, hematemesis, 
constipation, BRBPR, change in bladder habits, dysuria, 
hematuria, lower extremity edema, cough, cold, any other 
episodes of chest discomfort. + mild diarrhea x 1 day 5 days 
prior to admission, and some mild fatigue, attributed to GI bug. 

 
Past Medical History:
Hypertension  
Multinodular Goiter  
Hypercholesterolemia  
H/o abnormal EKG: previously work-up and was negative. Per 
patient's report negative nuclear stress test ___  
Iron deficiency anemia  
GERD  
 
Social History:
___
Family History:
Sister had non-fatal MI at ___, father MI at ___, uncle bypass 
surg at young age, all siblings with HTN. 
 
Physical Exam:
ON ADMISSION:
Vitals T 97.8, BP 147/76, HR 83, RR 20, O2 sat 97% RA  
General: NAD, Alert and oriented x 3  
HEENT: PERRLA, Anicteric, MMdry, no JVD, no lid lag.  
Neck: No thyromegaly, but with irregular surface  
CV: RRR, Normal S1 + S2, No murmurs, rubs or gallops  
Resp: Clear to auscultation bilaterally, No wheezes or crackles  

Abd: NABS, soft, nontender, nondistended.  
Extremities: No cyanosis, clubbing or edema, +2 distal pulses in 
bil upper and lower extremities.  
Skin: no rashes  
Neuro: AAOx3. Cn II-XII intact. no tremor.  

ON DISCHARGE:
VSS, afebrile, unchanged from exam above.
 
 
Pertinent Results:
LABORATORY STUDIES:
___ 10:15PM BLOOD WBC-9.4 RBC-5.03 Hgb-13.6 Hct-42.2 MCV-84 
MCH-27.1 MCHC-32.3 RDW-15.2 Plt ___
___ 10:15PM BLOOD Glucose-160* UreaN-13 Creat-0.8 Na-140 
K-3.3 Cl-101 HCO3-25 AnGap-17
___ 10:50AM BLOOD Glucose-100 UreaN-15 Creat-0.7 Na-140 
K-3.8 Cl-101 HCO3-28 AnGap-15
___ 10:15PM BLOOD cTropnT-<0.01
___ 10:50AM BLOOD CK-MB-NotDone cTropnT-<0.01
___ 01:30PM BLOOD CK-MB-NotDone cTropnT-<0.01
___ 10:15PM BLOOD Calcium-10.2 Phos-3.8 Mg-2.0
___ 10:15PM BLOOD %HbA1c-5.9

EKG: sinus at 91, nl axis, nl intervals, 1mm ST dep I,aVL, V1, 
V2. TWI V1, T biphasic aVL. pr depression II, III, aVF, V5, V6. 
Qs in II, III, aVF. no priors. Posterior leads with no acute 
elevations. ST dep persisted in V2, and TWI V2, V3. No changes 
from previous EKGs once reviewed records received from PCP.

CXR: IMPRESSION: No acute cardiopulmonary process.
 
Brief Hospital Course:
The patient is a ___ year old female with hypertension and 
significant anxiety about her family history of myocardial 
infarctions who presented with an episode of near syncope in the 
setting of possible mild dehydration, and exertion, admitted for 
rule out myocardial infarction.

#1. Near Syncope: We suspected that this could have been due to 
a recent diarrheal illness one week prior to presentation, in 
addition to diuretic use, in setting of exertion.  
- The patient was admitted to telemetry, with no events noted 
during the first hospital day.  Serial cardiac enzymes were done 
and found to be negative x3.
- Records were obtained from her primary care provider's office 
and revealed that the EKG findings seen on admission are the 
patient's baseline without acute changes.  In addition, review 
of these records showed an outpatient stress test that was done 
in the past year which was normal. 
- Daily ASA was continued; the patient's chest pain resolved and 
she felt entirely well during the first hospital day without any 
further intervention.

#2. Hypertension, hyperlipidemia, GERD: We continued the 
patients home medications for GERD and HTN.  As the patient was 
not sure of her simvastatin dose, this was held for her one day 
of hospitalization.    

#3. Iron deficiency anemia: Continued the patient's home po iron 
supplementation.

#4. Multinodular goiter: Continued the patient's levothyroxine. 
Recent TFTs done by PCP were found to be within normal limits. 

#5. Seasonal allergies: Continued the patient's home loratidine  


#6. Hyperglycemia on labs: on initial labs which was found to 
resolve on HD#1 labs. HgbA1c found to be normal at 5.9.

The patient's FULL code status was confirmed during this 
admission. She was deemed medically stable, chest pain free, and 
fit for discharge on ___.  The patient will have close 
follow-up within one week with her primary care provider.
 
Medications on Admission:
Triamterene/HCTZ ___ daily (started in ___ 
Lisinopril 5mg daily  
Omeprazole 20 mg daily  
Levothyroxine 88 mcg  
Simvastatin dose uncertain  
ASA 81 mg daily  
Loratidine 10 mg daily  
Iron OTC daily  
 
Discharge Medications:
1. Triamterene-Hydrochlorothiazid 37.5-25 mg Capsule Sig: One 
(1) Cap PO DAILY (Daily).  
2. Lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

3. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
4. Levothyroxine 88 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Simvastatin 20 mg Tablet Sig: One (1) Tablet PO once a day: 
Dose uncertain.  
6. Aspirin 81 mg Tablet Sig: One (1) Tablet PO once a day.  
7. Loratadine 10 mg Tablet Sig: One (1) Tablet PO once a day.  
8. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
9. Patient will also continue her home dose of simvastatin as an 
outpatient, per her primary care physician's recommendations.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pre-syncope

 
Discharge Condition:
Stable.  Chest pain free.  Ambulating without assistance. 

 
Discharge Instructions:
You were seen and evaluated for your chest pain.  You did not 
have a heart attack.  You were monitored on telemetry overnight 
and did not have any evidence of irregular heart rates.

Please take all your medications as prescribed.  No changes were 
made to your medication regimen. 

Please keep all your follow-up appointments as scheduled. 

Please seek immediate medical attention if you experience any 
fevers, difficulty breathing, additional episodes of chest pain, 
lightheadedness, dizziness, or any other concerning symptoms. 
 
Followup Instructions:
___